US07572823B2
[2-(4-chloro-phenyl)-ethyl]-(4-trimethylsilanyl-benzyl)-amine was prepared in analogy to example 1 from 4-trimethylsilanyl-benzaldehyde and 2-(4-chloro-phenyl)-ethylamine. MS (ISP): 318.1/320.3 (100/39) (M+H)+. 1HNMR (CDCl3, 300 MHz): δ 7.47 (d, 2H), 7.23-7.28 (m, 4H), 7.12 (d, 2H), 3.79 (s, 2H), 2.75-3.00 (m, 4H), 0.26 (s, 9H).

reactant | 4-trimethylsilanyl-benzaldehyde | C[Si](C1=CC=C(C=O)C=C1)(C)C | C10H14OSi
reactant | 2-(4-chloro-phenyl)-ethylamine | ClC1=CC=C(C=C1)CCN | C8H10ClN
product | [2-(4-chloro-phenyl)-ethyl]-(4-trimethylsilanyl-benzyl)-amine | ClC1=CC=C(C=C1)CCNCC1=CC=C(C=C1)[Si](C)(C)C | C18H24ClNSi
